US06552018B1
Synthesis of 3-[4-(3-Chlorophenyl)-1-piperazinyl]-1-[1-(3-chloro-2-pyridyl)-5-methyl-4-pyrazolyl]-1-propene Hydrochloride
4-Acetyl-1-(3-chloro-2-pyridyl)-5-methylpyrazole (648 mg), 1-(3-chlorophenyl)pyrazole hydrochloride (641 mg), and p-formaldehyde (1.65 g) were reacted, and the product was worked up in the same manner as in Example 5-(4) to yield 439 mg of the title compound.

reactant | 4-Acetyl-1-(3-chloro-2-pyridyl)-5-methylpyrazole | 648 mg | C(C)(=O)C=1C=NN(C1C)C1=NC=CC=C1Cl | C11H10ClN3O
reactant | 1-(3-chlorophenyl)pyrazole hydrochloride | 641 mg | Cl.ClC=1C=C(C=CC1)N1N=CC=C1
product | 3-[4-(3-Chlorophenyl)-1-piperazinyl]-1-[1-(3-chloro-2-pyridyl)-5-methyl-4-pyrazolyl]-1-propene Hydrochloride | 439 mg | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CC=CC=1C=NN(C1C)C1=NC=CC=C1Cl | InChI=1S/C22H23Cl2N5.ClH/c1-17-18(16-26-29(17)22-21(24)8-3-9-25-22)5-4-10-27-11-13-28(14-12-27)20-7-2-6-19(23)15-20;/h2-9,15-16H,10-14H2,1H3;1H
